US07524845B2
Synthesis of 1-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-morpholin-4-yl-pyrazolo[3,4-b]pyridin-1-yl)-ethanone
A mixture of 1-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone (102.4 mg), morpholine (0.20 mL), Xantphos (35 mg), Pd2(dba)3 (18.3 mg) and Cs2CO3 (97 mg) in THF (1 mL) was heated to 80° C. for 12 h. The reaction mixture was allowed to cool to room temperature, diluted by EtOAc (3 mL) and filtered. The filtrate was evaporated in vacuo. The crude residue was purified by flash chromatography (silica, Hexane/EtOAc) to provide the title compound as a white powder: LCMS (ES) M+H 471.6, Rf 2.043 min (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C., 1 ml/min flow rate, a 2.5 min gradient of 20% to 100% B with a 1.1 min wash at 100% B, A=0.1% formic acid /5% acetonitrile /94.9% water, B=0.1% formic acid /5% water/94.9% acetonitrile).

reactant | 1-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone | 102.4 mg | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C=2C1=NC=CC2)I)=O)OC | C19H19ClIN5O2
reactant | morpholine | 0.20 mL | N1CCOCC1 | C4H9NO
reactant | Xantphos | 35 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 97 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 18.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | 1-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-morpholin-4-yl-pyrazolo[3,4-b]pyridin-1-yl)-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C=2C1=NC=CC2)N2CCOCC2)=O)OC | C23H27ClN6O3
